US08053440B2
To a solution of 2-amino-4,6-dimethoxybenzamide (0.15 g, 0.764 mmol) in N,N-dimethyl acetamide (5 mL) were added 2-pyridine carboxaldehyde (0.082 g, 0.764 mmol), sodium hydrogen sulphite (58.5%, 0.15 g, 0.84 mmol), and p-toluenesulfonic acid (15 mg, 0.0764 mmol). The reaction mixture was stirred at 150° C. overnight. The mixture was cooled to room temperature. Water (40 mL) was added and the reaction mixture was extracted with dichloromethane (2×50 mL). The combined organic layers were washed with water and dried over anhydrous Na2SO4. The solvent was removed and the crude compound was purified by column chromatography (silica gel 230-400 mesh; 1% methanol in CH2Cl2 as eluent) to give 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one (0.077 g, 36%) as a white solid. 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one was converted to the corresponding hydrochloride. Selected data: MS (m/z): 284.0; MP 215-217° C. (hydrochloride).

reactant | 2-amino-4,6-dimethoxybenzamide | 0.764 mmol, 0.15 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 2-pyridine carboxaldehyde | 0.764 mmol, 0.082 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium hydrogen sulphite | 0.84 mmol, 0.15 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 0.0764 mmol, 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethyl acetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | 40 mL | O | H2O
product | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | 0.077 g, 36% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
